US07285569B2
6-Amino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one
To a solution of 1-ethyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (5.9 g, 25.19 mmol) in methanol/tetrahydrofuran (THF) (1:1, 80 ml) palladium on charcoal (10%, 1.2 g) was added and the mixture hydrogenated at room temperature for 4 h. After filtration and evaporation of the solvents 5.05 g (98%) 6-amino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one was isolated as white solid.

reactant | 1-ethyl-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | 25.19 mmol, 5.9 g | C(C)N1C(C(C2=CC=C(C=C12)[N+](=O)[O-])(C)C)=O | C12H14N2O3
solvent | methanol tetrahydrofuran | 80 ml | CO.O1CCCC1
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | 6-Amino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one | NC1=CC=C2C(C(N(C2=C1)CC)=O)(C)C | C12H16N2O
